US07160875B2
(S)-7-Amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one was coupled with N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid in analogy to the description in example 73 to yield N-((S)-5-Methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as white solid.

reactant | (S)-7-Amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | FC(CNC(CC(=O)O)=O)(C(F)(F)F)F | C6H6F5NO3
product | N-((S)-5-Methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | CN1C2=C(C3=C([C@@H](C1=O)NC(CC(=O)NCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C21H18F5N3O3
